US07709645B2
5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-(toluene-4-sulfonyl)-2H-pyrazole-3-carboxylic acid dimethylamide (90 mg, 0.174 mmol) was dissolved in methanol (0.5 mL) and dimethylformamide (0.5 mL) and 50% w/v aqueous potassium hydroxide (0.5 mL) was added. After 3 hours, acetic acid (0.5 mL) was added and the mixture diluted with water. The solids were collected by filtration and the material purified by preparative HPLC to afford 5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2H-pyrazole-3-carboxylic acid dimethylamide (16.0 mg, 25.4%) 1H-NMR (500 MHz, dimethylsulfoxide-d6, 70° C.) δ 3.06-3.15 (s, 6H), 3.83 (s, 3H), 6.98 (br s, 1H), 7.07 (t, J=7.5 Hz, 1H), 7.14 (d, J=8.0 Hz, 1H), 7.31 (Br t, J=8.5 Hz, 1H), 7.60 (br d, J=6.0 Hz, 1H), 7.71 (Br s, 1H), 8.39 (br s, 1H), 8.67 (br s, 1H). MS: m/z 362 (M+H+).

reactant | 5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-(toluene-4-sulfonyl)-2H-pyrazole-3-carboxylic acid dimethylamide | 0.174 mmol, 90 mg | CN(C(=O)C=1N(N=C(C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C)C | C34H31N5O6S2
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | potassium hydroxide | 0.5 mL | [OH-].[K+]
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 0.5 mL | CO | CH4O
solvent | water | O | H2O
product | 5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2H-pyrazole-3-carboxylic acid dimethylamide | 16.0 mg, 25.4% | CN(C(=O)C=1NN=C(C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)C | C20H19N5O2
